US04536346
4-[2,2-Bis(p-chlorophenyl)acetamido]benzoic acid, ethyl ester
To a stirred solution of 23.55 g. of bis(p-chlorophenyl)acetic acid in 250 ml. of benzene is added dropwise 33.1 g. of sulfonyl chloride. The mixture is refluxed 5 hours, the solvent is evaporated, and the residue is evaporated from three 250 ml. portions of benzene, giving 26.06 g. of bis(p-chlorophenyl)acetyl chloride as an oil. To this oil is added a solution of 27.7 g. of benzocaine. The mixture is stirred overnight, filtered, washed with 200 ml. each of 10% hydrochloric acid, saturated sodium bicarbonate solution, water, and brine, dried over magnesium sulfate, and evaporated. The residue is crystallized twice from 200 ml. of ethanol, giving 25.76 g. of the desired product as colorless needles, m.p. 171°-172° C.

reactant | bis(p-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | bis(p-chlorophenyl)acetyl chloride | ClC1=CC=C(C=C1)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C14H9Cl3O
reactant | benzocaine | CCOC(=O)C=1C=CC(=CC1)N | C9H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[2,2-Bis(p-chlorophenyl)acetamido]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C23H19Cl2NO3
